US04822893
Preparation of 2-(2-Benzyloxyethyl)-3-fluorophenylhydrazine Hydrochloride (VII: R1 =3-F, X=CH2Ph)
A mechanically stirred suspension of 2-(2-benzyloxyethyl)-3-fluoroaniline hydrochloride (53 g, 0.188 mole) in a mixture of water (30 mL), concentrated HCl (127 mL) and glacial HOAc (127 mL) was cooled to -10° C. (internal temperature). A solution of NaNO2 (14.27 g, 0.206 mole) in water (52 mL) was added dropwise while maintaining the internal temperature at -10° C. The resulting red solution was stirred an additional 75 minutes at -10° C. and then treated dropwise (over 30 minutes) with a solution of tin (II) chloride dihydrate (84.8 g, 0.376 mole) in concentrated HCl (97 mL) precooled to -40° C. The mixture was stirred an additional 75 minutes at -10° C. and then cooled at -15° C. and basified (to pH 14) with 50% NaOH (about 320 mL). The internal temperature was kept at - 8°/-10° C. during the addition of the base. The mixture was extracted with ether (3×). The combined extracts were washed with brine, dried (anhydrous K2CO3) and carefully acidified with ethereal HCl. Removal of the solvent provided the title compound as a tan solid (54 g, 96.9%). Trituration with light petroleum ether removed the less polar impurities and provided pure product (48.4 g, 86.8%).

reactant | 2-(2-benzyloxyethyl)-3-fluoroaniline hydrochloride | 0.188 mole, 53 g | Cl.C(C1=CC=CC=C1)OCCC1=C(N)C=CC=C1F
reactant | NaNO2 | 0.206 mole, 14.27 g | N(=O)[O-].[Na+]
reactant | tin (II) chloride dihydrate | 0.376 mole, 84.8 g | O.O.[Sn](Cl)Cl
reactant | NaOH | about 320 mL | [OH-].[Na+]
solvent | water | 30 mL | O | H2O
solvent | water | 52 mL | O | H2O
solvent | HCl | 97 mL | Cl | ClH
solvent | HCl | 127 mL | Cl | ClH
solvent | HOAc | 127 mL | CC(=O)O | C2H4O2
product | 2-(2-Benzyloxyethyl)-3-fluorophenylhydrazine Hydrochloride | 54 g, 96.9% | Cl.C(C1=CC=CC=C1)OCCC1=C(C=CC=C1F)NN | InChI=1S/C15H17FN2O.ClH/c16-14-7-4-8-15(18-17)13(14)9-10-19-11-12-5-2-1-3-6-12;/h1-8,18H,9-11,17H2;1H
